US08314087B2
Methyl 2-(4-(tert-butyldimethylsilyloxy)phenyl)acetate.
A solution of 4-hydroxyphenylacetic acid methyl ester (2000 mg, 12036 μmol), 1H-imidazole (2048 μl, 18053 μmol), and chloro-tert-butyldimethylsilane (1814 mg, 12036 μmol) in DMF (10 mL) was stirred at 23° C. for 18 h. The mixture was partitioned between EtOAc (50 mL) and 5% NaHCO3 (25 mL). The organic layer was dried over MgSO4 and concentrated to a colorless oil from toluene under reduced pressure. MS (ESI pos. ion) m/z (MH+): 281. Calc'd exact mass for C15H24O3Si: 280.

reactant | 4-hydroxyphenylacetic acid methyl ester | 12036 μmol, 2000 mg | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | 1H-imidazole | 18053 μmol, 2048 μl | N1C=NC=C1 | C3H4N2
reactant | chloro-tert-butyldimethylsilane | 12036 μmol, 1814 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(4-(tert-butyldimethylsilyloxy)phenyl)acetate | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(=O)OC | C15H24O3Si
